US08871756B2
2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]oxy}ethanamine
A mixture of N-(2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]oxy}ethyl)acetamide (15 mg, 0.03 mmol) and an aqueous solution of hydrochloric acid (10 mL, 37% W/W) was heated with stirring at 80° C. for 3 hours. The reaction mixture was purified by preparative HPLC and SPE to give 9.3 mg of the desired product (yield was 68.5%). MS obsd. (ESI+) [(M+H)+] 398, 1H NMR (400 MHz, CD3OD) δ ppm 8.11 (s, 1 H), 8.10-8.06 (d, J=7.6 Hz, 1 H), 7.93-7.88 (d, J=7.2 Hz, 1 H), 7.82-7.76 (d, J=8 Hz, 1 H), 7.73-7.68 (t, J=7.6 Hz, 1 H), 7.65-7.60 (d, J=6.8 Hz, 1 H), 7.60-7.53 (t, J=7.2 Hz, 1 H), 6.68 (s, 1 H), 5.41 (s, 2 H), 4.70-4.65 (m, 2 H), 4.65-4.45 (m, 2 H), 3.80-3.72 (t, J=2.8 Hz, 2 H), 3.62-3.58 (t, J=4.4 Hz, 2 H), 2.47 (s, 3 H).

reactant | N-(2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]oxy}ethyl)acetamide | 0.03 mmol, 15 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)OCCNC(C)=O)C)=O | C23H25N3O4S
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | 2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]oxy}ethanamine | 9.3 mg, yield was 68.5% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)OCCN)C)=O | C21H23N3O3S
